US09193720B2
To a solution of 4-(propan-2-ylidene)piperidine (500 mg, 3.99 mmol) and DIEA (2.1 mL, 11.98 mmol) in anhydrous CH3CN (30 mL) was added isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate (1.48 g, 3.99 mmol) at rt. The resulting mixture was placed in a pre-heated oil bath (80° C.) and stirred for 24 h; cooled, diluted with ether, washed with water, brine, and dried (MgSO4). The crude product was charged (DCM) to an 80 g ISCO silica gel cartridge and gradient eluted (0-35% EtOAc/hexanes) using an Isolera chromatography station gave isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-(propan-2-ylidene)piperidin-1-yl)pyridin-3-yl)-2-oxoacetate 1.04 g (61.8%). 1H NMR (500 MHz, DMSO-d6) δ 5.09-5.04 (m, 1H), 3.50-3.48 (br. s, 2H), 3.03 (br. s, 2H), 2.60 (s, 3H), 2.30 (s, 3H), 2.23 (br. s, 4), 1.64 (s, 6H), 1.25 (d, J=6.2 Hz, 6H). UPLC (M+H)=425.3.

reactant | 4-(propan-2-ylidene)piperidine | 3.99 mmol, 500 mg | CC(C)=C1CCNCC1 | C8H15N
reactant | DIEA | 11.98 mmol, 2.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 3.99 mmol, 1.48 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)Cl | C12H13BrClNO3
solvent | CH3CN | 30 mL | CC#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-(propan-2-ylidene)piperidin-1-yl)pyridin-3-yl)-2-oxoacetate | 1.04 g, 61.8% | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CCC(CC1)=C(C)C | C20H27BrN2O3
